US08258144B2
A solution of tert-butyl 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)benzylcarbamate (306 mg, 0.580 mmol), N-(4-aminophenyl)-N-methylacetamide (190 mg, 1.16 mmol) and trimethylsilyl chloride (0.100 mL, 0.791 mmol) in nBuOH (5 mL) was stirred at 116° C. for 20 h. The mixture was then purified by HPLC to give N-(4-(4-(3-(aminomethyl)phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide (27 mg).

reactant | tert-butyl 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)benzylcarbamate | 0.580 mmol, 306 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC=2C=C(CNC(OC(C)(C)C)=O)C=CC2 | C25H26ClN5O4S
reactant | N-(4-aminophenyl)-N-methylacetamide | 1.16 mmol, 190 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | trimethylsilyl chloride | 0.791 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 5 mL | C(CCC)O | C4H10O
product | N-(4-(4-(3-(aminomethyl)phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 27 mg | NCC=1C=C(C=CC1)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C29H29N7O3S
